US06995184B2
B) 7-Chloro-2-methyl-1-(3-(methylsulphanyl)propyl)-1H-indole.
1.5 g of 7-chloro-2-methyl-1H-indole are mixed with stirring with 1.1 g of ground potassium hydroxide and 0.2 g of TDA-1. The mixture is left stirring for 2 hours at AT, then 3.1 g of 1-bromo-3-methylsulphanylpropane are added dropwise and the mixture is heated at reflux for 24 hours. Ground potassium hydroxide (0.5 g), TDA-1 (0.1 g) and 1.6 g of 1-bromo-3-methylsulphanylpropane are again added. After heating at reflux for 9 hours, 1.6 g of 1-bromo-3-methylsulphanylpropane are again added and the mixture is heated at reflux for 24 hours. The mixture is allowed to return to AT and is then extracted with toluene. The organic phase is washed with a 10% HCl solution, with water and then a saturated NaCl solution. It is dried and evaporated and then the residue is chromatographed on silica while eluting with a cyclohexane/toluene (50/50, v/v) mixture. 1.87 g of the expected compound are obtained.

reactant | 7-chloro-2-methyl-1H-indole | 1.5 g | ClC=1C=CC=C2C=C(NC12)C | C9H8ClN
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-bromo-3-methylsulphanylpropane | 3.1 g | BrCCCSC | C4H9BrS
reactant | potassium hydroxide | 0.5 g | [OH-].[K+]
reactant | 1-bromo-3-methylsulphanylpropane | 1.6 g | BrCCCSC | C4H9BrS
reactant | 1-bromo-3-methylsulphanylpropane | 1.6 g | BrCCCSC | C4H9BrS
catalyst | TDA-1 | 0.2 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
catalyst | TDA-1 | 0.1 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
product | 7-Chloro-2-methyl-1-(3-(methylsulphanyl)propyl)-1H-indole | 1.87 g | ClC=1C=CC=C2C=C(N(C12)CCCSC)C | C13H16ClNS
